US07652023B2
(S)-2-fluoro-5-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(5-methyl-4-(trifluoromethyl)thiazol-2-ylamino)-2-phenylethyl)phenol
To a solution of (S)-N-(1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-5-methyl-4-(trifluoromethyl)thiazol-2-amine (28.5 mg, 0.046 mmol) in CH2Cl2 (1 mL) at −76° C. was added BBr3 (460 μL, 1 M in DCM, 0.46 mmol). The reaction mixture was stirred at −76° C. for 2 h and quenched by the addition of MeOH. The reaction mixture was concentrated and the residue was purified by preparative HPLC Phenomenex Luna AXIA S5 30×100 mm Ballistic column 50-100% MeOH (90% in water, 0.1% TFA) gradient over 10 min with flow rate 40 mL/min and UV detection at 220 nm. (S)-2-fluoro-5-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(5-methyl-4-(trifluoromethyl)thiazol-2-ylamino)-2-phenylethyl)phenol eluted at a retention time of 11.09 min and was isolated as a colorless gum (20 mg, 72% yield). LCMS: RT=4.12 min [M+H] 607.2 (Phenomenex Luna C18 column, 4.6×50 mm eluting with 10-90% MeOH/H2O over 4 minutes containing 0.1% TFA; 4 mL/min, monitoring at 220 nm). NMR: 400 MHz 1H (CDCl3) 7.14 ppm, 3H, m; 6.95 ppm, 6H, m; 6.65 ppm, 2H, m; 6.07 ppm, 1H, s; 5.88 ppm, 1H, m; 3.69 ppm, 2H, d, J=1.26 Hz; 3.49 ppm, 1H, s; 2.29 ppm, 3H, q, J=2.19 Hz.

reactant | (S)-N-(1-(4-fluoro-3-methoxyphenyl)-1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-2-phenylethyl)-5-methyl-4-(trifluoromethyl)thiazol-2-amine | 0.046 mmol, 28.5 mg | FC1=C(C=C(C=C1)[C@@](CC1=CC=CC=C1)(C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)NC=1SC(=C(N1)C(F)(F)F)C)OC | C28H21F9N2O2S
reactant | BBr3 | 0.46 mmol, 1 M, 460 μL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-fluoro-5-(1-(3-fluoro-5-(1,1,2,2-tetrafluoroethoxy)phenyl)-1-(5-methyl-4-(trifluoromethyl)thiazol-2-ylamino)-2-phenylethyl)phenol | 20 mg, 72% yield | FC1=C(C=C(C=C1)[C@](CC1=CC=CC=C1)(NC=1SC(=C(N1)C(F)(F)F)C)C1=CC(=CC(=C1)OC(C(F)F)(F)F)F)O | C27H19F9N2O2S
